US08053438B2
3-(4-(1H-BENZO[D]IMIDAZOLE-2-CARBONYL)PHENOXY)-N-PHENETHYLPYRAZINE-2-CARBOXAMIDE
HATU (123 mg, 0.324 mmol) was added to a mixture of 3-(4-(1H-benzo[d]imidazole-2-carbonyl)phenoxy)pyrazine-2-carboxylic acid (106 mg, 0.294 mmol) and diisopropylethylamine (102 μL, 0.588 mmol) in DMF (1 mL) and the mixture was stirred at RT for 10 min. 2-Phenylethylamine (55.8 μL, 0.441 mmol) was added and the mixture was stirred at RT for 1 h. The mixture was purified by chromatography on silica gel to deliver 3-(4-(1H-benzo[d]imidazole-2-carbonyl)phenoxy)-N-phenethylpyrazine-2-carboxamide as a white solid. MS (ESI, pos. ion) m/z: 464.0 (M+1). IC50 (uM) +++++.

reactant | HATU | 0.324 mmol, 123 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-(4-(1H-benzo[d]imidazole-2-carbonyl)phenoxy)pyrazine-2-carboxylic acid | 0.294 mmol, 106 mg | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(OC=1C(=NC=CN1)C(=O)O)C=C2 | C19H12N4O4
reactant | diisopropylethylamine | 0.588 mmol, 102 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-Phenylethylamine | 0.441 mmol, 55.8 μL | C1(=CC=CC=C1)CCN | C8H11N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-(4-(1H-BENZO[D]IMIDAZOLE-2-CARBONYL)PHENOXY)-N-PHENETHYLPYRAZINE-2-CARBOXAMIDE | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(OC=1C(=NC=CN1)C(=O)NCCC1=CC=CC=C1)C=C2 | C27H21N5O3
